simulator lang=spectre
global 0

ahdl_include "./dut/lt_read_sar7b_weighted.va"

Vgnd (gnd 0) vsource dc=0
Vd0 (d0 0) vsource type=pwl wave=[0 0 3.0n 0 3.05n 0.9 4.0n 0.9]
Vd1 (d1 0) vsource type=pwl wave=[0 0 4.0n 0]
Vd2 (d2 0) vsource type=pwl wave=[0 0 2.0n 0 2.05n 0.9 4.0n 0.9]
Vd3 (d3 0) vsource type=pwl wave=[0 0 4.0n 0]
Vd4 (d4 0) vsource type=pwl wave=[0 0 3.0n 0 3.05n 0.9 4.0n 0.9]
Vd5 (d5 0) vsource type=pwl wave=[0 0 1.0n 0 1.05n 0.9 2.0n 0.9 2.05n 0 3.0n 0 3.05n 0.9 4.0n 0.9]
Vd6 (d6 0) vsource type=pwl wave=[0 0 2.0n 0 2.05n 0.9 4.0n 0.9]
Vd7 (d7 0) vsource type=pwl wave=[0 0 1.0n 0 1.05n 0.9 4.0n 0.9]
XDUT (d0 d1 d2 d3 d4 d5 d6 d7 vout gnd) lt_read_sar7b_weighted

simulatorOptions options evas_profile=balanced

tran tran stop=3.8n maxstep=5p
save d0 d1 d2 d3 d4 d5 d6 d7 vout gnd
